US04740234
2-[[-N-[4-methoxy-6-methyl-1,3,5-triazin-2-yl]N-methylaminocarbonyl]aminosulfonyl]benzoic acid, methyl ester
To a solution of 2-carbomethoxybenzenesulfonyl isocyanate (22.4 g 93.0 mmol) in dichloromethane (100 mL) was added 2-methoxy-4-methyl-6-methylamino-1,3,5-triazine (10.7 g, 69.6 mmol), followed by a catalytic amount of 1,4-diaza[2.2.2]bicyclooctane. After stirring overnight at ambient temperature under a nitrogen atmosphere, the reaction mixture was concentrated in vacuo. The residue was triturated with diethyl ether and then washed with 1-chlorobutane to yield the title compound as a white powder (27.8 g, m.p. 126°-131° C.).

reactant | 2-carbomethoxybenzenesulfonyl isocyanate | 93.0 mmol, 22.4 g | C(=O)(OC)C1=C(C=CC=C1)S(=O)(=O)N=C=O | C9H7NO5S
reactant | 2-methoxy-4-methyl-6-methylamino-1,3,5-triazine | 69.6 mmol, 10.7 g | COC1=NC(=NC(=N1)C)NC | C6H10N4O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 2-[[-N-[4-methoxy-6-methyl-1,3,5-triazin-2-yl]N-methylaminocarbonyl]aminosulfonyl]benzoic acid, methyl ester | 27.8 g | COC1=NC(=NC(=N1)C)N(C(=O)NS(=O)(=O)C1=C(C(=O)OC)C=CC=C1)C | C15H17N5O6S
